US06835216B2
Chloroacetylacetone 8 g (59.4 mmol) is dissolved in 70 ml of glacial acetic acid and ammonium acetate 13.7 g (178.2 mmol) is then added and the mixture is refluxed for 4 hours. The solution is cooled, brought to pH 5 and extracted into ether; the organic layer is dried over Na2SO4 and concentrated to dryness in vacuo. The residue is purified by column chromatography on silica gel using 8:2 hexane:ethyl acetate as eluent. The 2,4-dimethyl-5-acetyloxazole is obtained as orange needles (2.2 g, 27%).

reactant | Chloroacetylacetone | 59.4 mmol, 8 g | ClCC(=O)CC(C)=O | C5H7ClO2
reactant | ammonium acetate | 178.2 mmol, 13.7 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
product | 2,4-dimethyl-5-acetyloxazole | CC=1OC(=C(N1)C)C(C)=O | C7H9NO2
